US04675316
A. 4-Chloro-4-phenylthiobutyronitrile
To a solution of 50 g (0.28 mole) of 4-phenylthiobutyronitrile in 200 ml of methylene chloride is added 40.5 g (0.3 mole) of sulfuryl chloride dropwise during a period of six hours. Stirring is continued overnight. Solvent and excess sulfuryl chloride is then evaporated under vacuum to give 61 g of a crude product. This material is used in the next experiment without further purification.

reactant | 4-phenylthiobutyronitrile | 0.28 mole, 50 g | C1(=CC=CC=C1)SCCCC#N | C10H11NS
reactant | sulfuryl chloride | 0.3 mole, 40.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-4-phenylthiobutyronitrile | 61 g | ClC(CCC#N)SC1=CC=CC=C1 | C10H10ClNS
